US08119666B2
A solution of 5-(2-benzyloxy-4-phenoxyphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one potassium salt (0.30 g, 0.67 mmol) in water (10 mL) is hydrogenated at 1 atm over 10% Pd/C (0.05 g) for 24 h. The catalyst is filtered and the water removed by lyophilization to afford the product, 5-(2-hydroxy-4-phenoxyphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one potassium salt, as an amorphous pale-grey solid: mp=205-210° C.; 1H NMR (DMSO-d6) δ 9.52 (br s, 1H), 7.47-7.41 (m, 3H), 7.19 (t, 1H), 7.08 (d, J=7.57 Hz, 2H), 6.51 (d, J=2.78 Hz, 1H), 6.46 (dd, J=8.59, 2.78 Hz, 1H), 4.06 (s, 2H); MS (M−H)−=319.

reactant | 5-(2-benzyloxy-4-phenoxyphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one potassium salt | 0.67 mmol, 0.30 g | [K].C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC1=CC=CC=C1)N1CC(NS1(=O)=O)=O
solvent | water | 10 mL | O | H2O
catalyst | Pd/C | 0.05 g | [Pd] | Pd
product | 5-(2-hydroxy-4-phenoxyphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one potassium salt | [K].OC1=C(C=CC(=C1)OC1=CC=CC=C1)N1CC(NS1(=O)=O)=O | InChI=1S/C14H12N2O5S.K/c17-13-8-11(21-10-4-2-1-3-5-10)6-7-12(13)16-9-14(18)15-22(16,19)20;/h1-8,17H,9H2,(H,15,18);
